US04374040
N,N'-Ethylenebis(tetrahydro-3-thiophenamine) 1,1,1',1':tetraoxide
A mixture of 2,5-dihydrothiophene 1,1-dioxide (236.4 parts, 2.0 moles); ethylenediamine (480.8 parts, 8 moles); and water (600 ml.) was heated at 70°-80° C. for 4 hours. The water and unreacted ethylenediamine were distilled under reduced pressure. Benzene (750 ml.) was added to the residue and the residual water was removed by azeotropic distillation. After removing the benzene, a reddish colored viscous oil in the amount of 375 g. (63 percent yield) that solidified on cooling was obtained.

reactant | 2,5-dihydrothiophene 1,1-dioxide | 2.0 moles | S1(CC=CC1)(=O)=O | C4H6O2S
reactant | ethylenediamine | 8 moles | C(CN)N | C2H8N2
solvent | water | 600 ml | O | H2O
product | N,N'-Ethylenebis(tetrahydro-3-thiophenamine) | 63 percent yield | C(CNC1CSCC1)NC1CSCC1 | C10H20N2S2
